US07371748B2
N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-ylmethyl-isonicotinamide
2-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide and N-(2-methoxyethyl)-methylamine were reacted as described for 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide in WO03/043636. Usual workup, preparative reversed-phase HPLC and final dry-freezing afforded the tide compound as light yellow solid (48% yield). Mp 108-111° C., MS: m/e=469(M+H+).

reactant | 2-Chloromethyl-N-(7-[1,4]dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | ClCC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3COCCOC3)OC)C=CN1 | C20H20ClN3O4S
reactant | N-(2-methoxyethyl)-methylamine | COCCNC | C4H11NO
reactant | 2-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COCCN(C)CC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C23H29N5O4S
product | N-(7-[1,4]Dioxepan-6-yl-4-methoxy-benzothiazol-2-yl)-2-pyrrolidin-1-ylmethyl-isonicotinamide | 48% yield | O1CCOCC(C1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)CN2CCCC2)=O)OC | C24H28N4O4S
